US04889856
Step A: Preparation of 2-Cyclopropyl-7,8-dihydro-4-hydroxy-6H-thiopyrano[3,2-d]pyrimidine
Sodium metal (3.94 g, 0.17 g atom) was dissolved in methanol (150 ml) and cyclopropylcarboxamidine hydrochloride (21.0 g, 0.174 mol) was added followed after 1/4 hour stirring by the addition of ethyl 3-oxotetrahydrothiopyran-2-carboxylate (27.2 g, 0.145 mol). The reaction mixture was stirred at 25° C. for 18 hours then treated with ice water (200 ml) and neutralized with acetic acid to give 24.6 g of the title compound which melted at 249°-250° C.

reactant | Sodium | 3.94 g | [Na] | Na
reactant | cyclopropylcarboxamidine hydrochloride | 0.174 mol, 21.0 g | C1CC1C(=N)N.Cl
reactant | ethyl 3-oxotetrahydrothiopyran-2-carboxylate | 0.145 mol, 27.2 g | O=C1C(SCCC1)C(=O)OCC | C8H12O3S
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 150 ml | CO | CH4O
product | 2-Cyclopropyl-7,8-dihydro-4-hydroxy-6H-thiopyrano[3,2-d]pyrimidine | 24.6 g | C1(CC1)C=1N=C(C2=C(N1)CCCS2)O | C10H12N2OS
